US07414134B2
Step (iii): Synthesis of (S)-2-methyl-1-(3-(trifluoromethyl)benzenesulfonyl)-aziridine (49)
(S)-2-(3-(Trifluoromethyl)benzenesulfonamido)propyl 3-(trifluoromethyl)benzene-sulfonate (1.60 g, 3.26 mmol) was dissolved in 25 mL dry THF and treated with KOtBu (5.0 g, 4.9 mmol). The resulting mixture was stirred for 20 h at RT. Thee reaction mixture was quenched with sat. NH4Cl and the solvent was removed. The residue was partitioned between EtOAc/H2O. The organic layer was washed with sat. NH4Cl, H2O, brine, dried over MgSO4 and concentrated. The residue was purified by SiO2 (90% hexanes: 10% Acetone) to afford the final compound. MS (m/z): 266.1 (M+H) (Calc'd for C10H10F3NO2S: 265.25).

reactant | (S)-2-(3-(Trifluoromethyl)benzenesulfonamido)propyl 3-(trifluoromethyl)benzene-sulfonate | 3.26 mmol, 1.60 g | FC(C=1C=C(C=CC1)S(=O)(=O)OC[C@H](C)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H15F6NO5S2
reactant | KOtBu | 4.9 mmol, 5.0 g | CC(C)(C)[O-].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (S)-2-methyl-1-(3-(trifluoromethyl)benzenesulfonyl)-aziridine | CC1[N@](C1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C10H10F3NO2S
